US07842688B2
6-[4-(4-Imidazol-1-ylmethylphenyl)piperidin-3-yloxymethyl]-4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazine
0.0978 g of benzyl 4-(4-imidazol-1-ylmethylphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate is dissolved in 3 ml of dioxane. 3 ml each of methanol and 40% KOH are added and the reaction mixture is stirred in a sealed flask at 100° C. over 5 hours. The reaction mixture is subsequently cooled to room temperature, diluted with 10 ml of water and extracted with ethyl acetate (3×30 ml). The combined organic phases are washed with 10 ml of water, then 10 ml of brine, dried over sodium sulphate, filtered and concentrated. The title compound is obtained from the residue by means of flash chromatography (SiO2 60F).

reactant | benzyl 4-(4-imidazol-1-ylmethylphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 0.0978 g | N1(C=NC=C1)CC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C36H42N4O5
reactant | methanol | 3 ml | CO | CH4O
reactant | KOH | [OH-].[K+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 6-[4-(4-Imidazol-1-ylmethylphenyl)piperidin-3-yloxymethyl]-4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazine | N1(C=NC=C1)CC1=CC=C(C=C1)C1C(CNCC1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C28H36N4O3
